US04015007
An amount of 2.0 g (0.0112 mole) of spiro[bicyclo [2.2.2]octane-2,3'-piperidine] is added, with ice cooling and with stirring, to a suspension of 2.4 g of sodium acetate in 30 ml of acetone and 10 ml of water; there is then added dropwise to the formed mixture at 0°-5° 1.8 g (0.014 mole) of 3-chloropropionyl chloride. An addition is subsequently made to the mixture, at 0°-5°, of 70 ml of water, whereupon the reaction product precipitates in liquid form. The mixture is extracted three times with 50 ml of methylene chloride each time. The methylene chloride extracts are washed separately in each case once with saturated sodium bicarbonate solution and twice with water; they are then dried over sodium sulphate and afterwards concentrated in vacuo (ca. 12 Torr) to obtain 1'-(3-chloropropionyl)-spiro[bicyclo[2.2.2]octane-2,3'-piperidine].

reactant | spiro[bicyclo [2.2.2]octane-2,3'-piperidine] | 0.0112 mole, 2.0 g | N1CC2(CCC1)C1CCC(C2)CC1 | C12H21N
reactant | sodium acetate | 2.4 g | C(C)(=O)[O-].[Na+]
reactant | 3-chloropropionyl chloride | 0.014 mole, 1.8 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | 1'-(3-chloropropionyl)-spiro[bicyclo[2.2.2]octane-2,3'-piperidine] | ClCCC(=O)N1CC2(CCC1)C1CCC(C2)CC1 | C15H24ClNO
